US03943124
2β-Bromo-3α-hydroxy-17β-methoxycarbonyl-5α-androstan-11-one
2α,3α-Epoxy-17β-methoxycarbonyl-5α-androstan-11-one (500 mg.) in chloroform (32 ml.) was stirred with 48% aqueous hydrogen bromide (10 ml.). After an hour the mixture was washed with an excess of aqueous sodium bicarbonate and with water, was dried (MgSO4) and evaporated to a froth (628 mg.) Crystallisation from ethyl acetate/light petroleum afforded title compound (330 mg.) as colourless needles; m.p. 205°-208°; [α]D + 76°,

reactant | 2α,3α-Epoxy-17β-methoxycarbonyl-5α-androstan-11-one | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]1(C2)C)=O)C(=O)OC | C21H30O4
reactant | hydrogen bromide | 10 ml | Br | BrH
solvent | chloroform | 32 ml | C(Cl)(Cl)Cl | CHCl3
product | 2β-Bromo-3α-hydroxy-17β-methoxycarbonyl-5α-androstan-11-one | 330 mg | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=O)C(=O)OC)O | C21H31BrO4
